US06340678B1
To a solution of 8.26 g of (Z)-[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]acetic acid in 150 ml of tetrahydrofuran were added 2.79 g of 1-hydroxybenzotriazole, 5.40 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide monohydrochloride and 3.18 g of 2-(piperazin-1-yl)ethanol, and the mixture was stirred at room temperature for 18 hours. A saturated aqueous solution of sodium bicarbonate was added to the reaction solution, the mixture was extracted with chloroform, and the solvent was evaporated from the extract. The residue was dissolved in 300 ml of 0.1N hydrochloric acid, washed with ethyl acetate, made alkaline with a 1N aqueous solution of sodium hydroxide, and extracted with chloroform. The organic layer was washed with a saturated aqueous solution of NaCl and dried over magnesium sulfate, and the solvent was evaporated off. The residue was crystallized from ethyl acetate, collected by filtration, and washed with ethyl acetate. The resulting crystals (9.0 g) were dissolved in 100 ml of chloroform, and 6 ml of a 4N HCl/ethyl acetate solution was added, followed by stirring at room temperature. The resulting crystals were collected by filtration and washed with chloroform. Those crude crystals (3.0 g of the above-obtained ones in 10.0 g) were recrystallized from a 90% aqueous ethanol solution to give 2.48 g of (Z)-2-(4-{[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]acetyl}piperazin-1-yl)ethanol monohydrochloride as a colorless powder.

reactant | (Z)-[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]acetic acid | 8.26 g | FC\1(CCN(C2=C(/C1=C/C(=O)O)C=CC=C2)C(=O)C2=C(N=C(S2)C2=CC=CC=C2)C)F | C23H18F2N2O3S
reactant | 1-hydroxybenzotriazole | 2.79 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide monohydrochloride | 5.40 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 2-(piperazin-1-yl)ethanol | 3.18 g | N1(CCNCC1)CCO | C6H14N2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | (Z)-2-(4-{[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]acetyl}piperazin-1-yl)ethanol monohydrochloride | 2.48 g | Cl.FC\1(CCN(C2=C(/C1=C/C(=O)N1CCN(CC1)CCO)C=CC=C2)C(=O)C2=C(N=C(S2)C2=CC=CC=C2)C)F | InChI=1S/C29H30F2N4O3S.ClH/c1-20-26(39-27(32-20)21-7-3-2-4-8-21)28(38)35-12-11-29(30,31)23(22-9-5-6-10-24(22)35)19-25(37)34-15-13-33(14-16-34)17-18-36;/h2-10,19,36H,11-18H2,1H3;1H/b23-19-;
